US07368573B2
(c) Preparation of Intermediate (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-azido-1-phenyl-ethyl) amide
2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid, (F-1a2, 0.78 g, 1.79 mM), (S)-2-azido-1-phenyl-ethylamine hydrochloride (0.36 g, 1.79 mM), EDC (0.41 g, 2.15 mM) and HOBT (10 mg, 0.075 mM), were dissolved in CH2Cl2 (15 mL) and treated with triethylamine (0.75 mL, 5.4 mM). The mixture was stirred at room temperature for 16 h, then was diluted with EtOAc (75 mL) and washed with 0.5 N HCl (20 mL), aqueous NaHCO3 (20 mL), and brine. The EtOAc fraction was dried (MgSO4), filtered and concentrated. ESMS (m+1), 581; calc. Mw, 580.

reactant | 2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid | 1.79 mM, 0.78 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=NC2=CC=C(C=C2C=C1)C(=O)O)(F)F | C24H15F3N2O3
reactant | (S)-2-azido-1-phenyl-ethylamine hydrochloride | 1.79 mM, 0.36 g | Cl.N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)N
reactant | EDC | 2.15 mM, 0.41 g
reactant | HOBT | 0.075 mM, 10 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | triethylamine | 5.4 mM, 0.75 mL | C(C)N(CC)CC | C6H15N
product | (S)-2-[(4′-Trifluoromethyl-biphenyl-2-carbonyl)-amino]-quinoline-6-carboxylic acid (2-azido-1-phenyl-ethyl) amide | N(=[N+]=[N-])C[C@H](C1=CC=CC=C1)NC(=O)C=1C=C2C=CC(=NC2=CC1)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C32H23F3N6O2
